US08053440B2
To a solution of 2-amino-5-nitro-benzamide (680 mg, 3.75 mmol) and 4-[2-(tert-butyidimethylsilanoxy)ethoxy]-3,5-dimethylbenzaldehyde (1.16 g, 3.75 mmol) in N,N-dimethyl acetamide (35 mL), NaHSO3 (736 mg, 4.14 mmol) and p-TSA (71 mg, 0.375 mmol) were added and the reaction mixture was heated at 150° C. for 5 h. The solvent was evaporated under reduced pressure. The residue was diluted with water and the solids were filtered off to give crude product (590 mg, 44%). To a solution of above crude product (490 mg, 1.38 mmol) in DMF (20 mL) and MeOH (20 mL), Pd—C (100 mg, 10%) was added and the reaction mixture was hydrogenated for 4 h at room temperature at 30 psi H2. The reaction mixture was filtered and the solvent was evaporated to give crude product. The crude was purified by column chromatography (silica gel 230-400 mesh; 4% methanol in CH2Cl2 as eluent) to give 6-amino-2-(4-(2-hydroxy ethoxy)-3,5-dimethyl phenyl)-3H-quinazolin-4-one (190 mg, 42% yield). To a solution of 6-amino-2-(4-(2-hydroxy ethoxy)-3,5-dimethyl phenyl)-3H-quinazolin-4-one (95 mg, 0.29 mmol) in pyridine (5 mL), acetic anhydride (108 mg, 0.73 mmol) was added and the mixture was stirred for 16 h at room temperature. The solvent was removed and the solids were dissolved in a mixture of MeOH (10 mL) and THF (10 mL) (compound was partially soluble). Then K2CO3 (100 mg, 0.73 mmol) was added and the reaction mixture was stirred for 3 h at room temperature. The solvent was removed and the crude was purified by column chromatography (silica gel 230-400 mesh; 5% methanol in CH2Cl2 as eluent) to give N-(2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-4-oxo-3,4-dihydroquinazolin-6-yl)acetamide (65 mg, 60%). Selected data: MS (ES) m/z: 368.09; MP>300° C.

reactant | 6-amino-2-(4-(2-hydroxy ethoxy)-3,5-dimethyl phenyl)-3H-quinazolin-4-one | 0.29 mmol, 95 mg | NC=1C=C2C(NC(=NC2=CC1)C1=CC(=C(C(=C1)C)OCCO)C)=O | C18H19N3O3
reactant | acetic anhydride | 0.73 mmol, 108 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | K2CO3 | 0.73 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-4-oxo-3,4-dihydroquinazolin-6-yl)acetamide | 65 mg, 60% | OCCOC1=C(C=C(C=C1C)C1=NC2=CC=C(C=C2C(N1)=O)NC(C)=O)C | C20H21N3O4
